* C:\Users\elect\Documents\GitHub\ECE2799_LED-Lamp\Simulation\LT3799-1_DC1816A.asc
C1 N014 0 10n
C2 N017 0 4.7µ
C3 N022 N024 10n
R1 N021 0 .015
R2 N016 N018 200K
C4 P001 P002 4.7p
C5 N005 0 10µ
R5 N001 N013 1Meg
R6 N013 0 3.48k
D1 N008 N005 1N4148
R7 N001 N005 500k
D4 N002 OUT MURS320
C6 OUT 0 680µ
D5 OUT 0 PT-121-B N=11
I1 0 N005 pwl(0 0 10u 28 20u 0)
R8 N015 0 9.31k
R9 N009 N015 200k
D6 N003 N001 1N4007
D7 0 N004 1N4007
D8 0 N003 1N4007
D9 N004 N001 1N4007
V1 N003 N011 SINE(0 393 300) Rser=1
C7 N001 0 0.47µ
L4 N011 N004 300µ Rser=2
I2 0 OUT pwl(0 0 10u 800 20u 0)
XU1 N018 N018 N023 N018 N016 N014 N022 N024 N015 P002 N005 MP_01 N017 N019 N021 N013 0 LT3799-1
XT1 N001 N006 N006 N012 N009 0 N002 N007 N007 0 750817251
R10 N009 P001 200k
R11 N009 N008 150
R12 N020 N019 1
V2 N023 0 PULSE(1 2 10m 10m 0 1)
XU2 N012 N020 N021 N021 NC_02 GaN_var_600V_NormOFF_gen2 a=1 w=1
D2 N012 N010 GSD2004W-V
D3 N001 N010 DFLZ33 N=4
.model D D
.lib C:\Users\elect\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 20m
.model 1N4007 D(Is=90p Rs=40m
+  Cjo=30p N=1.4 TT=5u)
* LT3799-1 - Offline Isolated Flyback LED Controller with Active PFC \nInput: 277VAC   Output: 3A/36V
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.INCLUDE CoolGaN_Transistor_650_V_G5-Spice.lib
.lib C:\Users\elect\Documents\GitHub\ECE2799_LED-Lamp\Simulation\Infineon-CoolGaN_Transistors_650_V_G5_SPICE-SimulationModels-v01_00-EN\CoolGaN_Transistor_650_V_G5-Spice.lib
.lib LT3799-1.sub
.lib WE-OLLT.lib
.backanno
.end
