* Z:\home\daniel\GitHub\ECE2799_LED-Lamp\Simulation\LT3799-1_DC1816A.asc
* Generated by LTspice 24.1.7 for Windows.
C1 N014 0 10n
C2 N017 0 4.7µ
C3 N022 N024 10n
R1 N021 0 0.03
R2 N016 N018 200K
C4 P001 P002 4.7p
C5 N005 0 10µ
R5 N001 N013 1Meg
R6 N013 0 3.48k
D1 N008 N005 1N4148
R7 N001 N005 500k
D4 N002 OUT MURS320
C6 OUT 0 680µ
D5 OUT 0 PT-121-B N=11
I1 0 N005 pwl(0 0 10u 28 20u 0)
R8 N015 0 9.31k
R9 N009 N015 200k
D6 N003 N001 1N4007
D7 0 N004 1N4007
D8 0 N003 1N4007
D9 N004 N001 1N4007
V1 N003 N011 SINE(0 393 50) Rser=1
C7 N001 0 0.47µ
L4 N011 N004 10m Rser=2
I2 0 OUT pwl(0 0 10u 800 20u 0)
X§U1 N018 N018 N023 N018 N016 N014 N022 N024 N015 P002 N005 MP_01 N017 N019 N021 N013 0 LT3799-1
R10 N009 P001 200k
R11 N009 N008 150
R12 N020 N019 10
V2 N023 0 PULSE(0.2 2 10m 100m 0 1)
D2 N012 N010 GSD2004W-V
D3 N001 N010 KDZLV150 N=4
M1 N012 N020 N021 N021 AOD280A60
X§T1 N001 N006 N006 N012 N009 0 N002 N007 N007 0 750817251
.model D D
.lib C:\users\daniel\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\daniel\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 120m
* LT3799-1 - Offline Isolated Flyback LED Controller with Active PFC \nInput: 277VAC   Output: 3A/36V
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT3799-1.sub
.lib WE-OLLT.lib
.backanno
.end
